US08378104B2
Step A: tert-butyl 4-[4-(7-amino-2-chloro-3-methylfuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]piper-idine-1-carboxylate
A vial was charged with 2-chloro-4-iodo-3-methylfuro[2,3-c]pyridin-7-amine (100 mg, 0.32 mmol), tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate (140 mg, 0.39 mmol), Cs2CO3(150 mg, 0.48 mmol), Pd(dppf)Cl2 (20 mg, 0.027 mmol, 8 mole %), and 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (40 mg, 0.080 mmol, 26 mole %) in DME (5 mL) and H2O (0.5 mL). The vial was purged with N2 and heated at 100° C. in a microwave reactor for 1 h. Water (20 mL) was added, and the mixture was extracted with EtOAc (3×20 mL). The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by preparative TLC (EtOAc) to afford 85 mg (62%) of the title compound. 1H NMR (400 MHz, CDCl3): δ 7.67 (s, 1H), 7.48 (s, 1H), 7.39 (s, 1H), 4.66 (s, 2H), 4.23 (m, 4H), 2.85 (m, 1H), 2.14 (m, 2H), 2.10 (m, 1H), 1.94 (s, 3H), 1.87 (m, 1H), 1.41 (s, 9H).

reactant | 2-chloro-4-iodo-3-methylfuro[2,3-c]pyridin-7-amine | 0.32 mmol, 100 mg | ClC1=C(C=2C(=C(N=CC2I)N)O1)C | C8H6ClIN2O
reactant | tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 0.39 mmol, 140 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
reactant | Cs2CO3 | 0.48 mmol, 150 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.080 mmol, 40 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | DME | 5 mL | COCCOC | C4H10O2
solvent | H2O | 0.5 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.027 mmol, 20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 4-[4-(7-amino-2-chloro-3-methylfuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]piper-idine-1-carboxylate | 85 mg, 62% | NC=1N=CC(=C2C1OC(=C2C)Cl)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C21H26ClN5O3
